US04088642
Preparation of Di[4-t-Butylazo-4-cyanovaleryl] peroxide.
To a solution of 0.48 g. (.012 m) of sodium hydroxide and 0.40 g. (.006 m) of 50% hydrogen peroxide in 10 ml. water at 10° C was added a solution of 2.7 g. (.0118 m) of 4-t-butylazo-4-cyanovaleryl chloride in 10 ml. benzene over 5 minutes. After the addition was complete, the reaction was stirred an additional 1/2 hour at 10° C and 15 minutes more allowing the temperature to rise to 23° C. Another 10 ml. benzene was added, the benzene layer separated, washed with 30 ml. 10% NaHCO3 solution, 15 ml. water, dried over anhydrous sodium sulfate, filtered and the benzene stripped off. A white crystalline solid weighing 2.3 g. (93% yield) resulted.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
reactant | water | O | H2O
reactant | 4-t-butylazo-4-cyanovaleryl chloride | C(C)(C)(C)N=NC(CCC(=O)Cl)(C)C#N | C10H16ClN3O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Di[4-t-Butylazo-4-cyanovaleryl] peroxide | 93% yield | C(C)(C)(C)N=NC(CCC(=O)OOC(CCC(C)(C#N)N=NC(C)(C)C)=O)(C)C#N | C20H32N6O4
